US07781478B2
6-Bromo-2-(4-ethoxyphenyl)-1-ethyl-1H-indole-3-carbonitrile (0.74 g, 2.0 mmol), compound 831, prepared from 6-bromoindole as described in example 1Gb, is mixed with K2CO3 (0.55 g, 4.0 mmol), CuI (0.02 g, 0.1 mmol), tert-butyl carbamate (0.35 g, 3.0 mmol), N,N′-dimethylcyclohexane-1,2-diamine ligand (0.028 g, 0.2 mmol) and anhydrous toluene (5.0 mL) in a sealed tube. The reaction system is flushed with nitrogen and then stirred at 110° C. overnight. After cooling, the solvent is replaced with dichloromethane and chromatographed (silica gel, dichloromethane) to provide [3-cyano-2-(4-ethoxy-phenyl)-1-ethyl-1H-indol-6-yl]-carbamic acid tert-butyl ester (0.68 g, 84%), compound 832.

reactant | 6-Bromo-2-(4-ethoxyphenyl)-1-ethyl-1H-indole-3-carbonitrile | 2.0 mmol, 0.74 g | BrC1=CC=C2C(=C(N(C2=C1)CC)C1=CC=C(C=C1)OCC)C#N | C19H17BrN2O
reactant | 6-bromoindole | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | K2CO3 | 4.0 mmol, 0.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl carbamate | 3.0 mmol, 0.35 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | N,N′-dimethylcyclohexane-1,2-diamine | 0.2 mmol, 0.028 g | CNC1C(CCCC1)NC | C8H18N2
catalyst | CuI | 0.1 mmol, 0.02 g | [Cu]I
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | [3-cyano-2-(4-ethoxy-phenyl)-1-ethyl-1H-indol-6-yl]-carbamic acid tert-butyl ester | 0.68 g, 84% | C(C)(C)(C)OC(NC1=CC=C2C(=C(N(C2=C1)CC)C1=CC=C(C=C1)OCC)C#N)=O | C24H27N3O3
